US08536168B2
6-[(S)-4-(4-Chloro-phthalazin-1-yl)-3-methyl-piperazin-1-yl]-nicotinic acid ethyl ester (Compound 25)
A solution of 6-((S)-3-methyl-piperazin-1-yl)-nicotinic acid ethyl ester (1.0 g, 4.0 mmol, 1 eq), 1,4-dichlorophthalazine (840 mg, 4.2 mmol, 1.05 eq) and triethyl amine (3.9 g, 2.8 mL, 38 mmol, 9.5 eq) in NMP (8 mL) is heated at 100 C for 26 h. Reaction is diluted with water (15 mL) and extracted with EtOAc (3×25 mL). The combined organic fractions are dried over magnesium sulfate, concentrated and purified by silica gel chromatography (5-50% EtOAc/Heptane) to yield the desired compound (500 mg, 30% yield).

reactant | 6-((S)-3-methyl-piperazin-1-yl)-nicotinic acid ethyl ester | 4.0 mmol, 1.0 g, 1 eq | C(C)OC(C1=CN=C(C=C1)N1C[C@@H](NCC1)C)=O | C13H19N3O2
reactant | 1,4-dichlorophthalazine | 4.2 mmol, 840 mg, 1.05 eq | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | triethyl amine | 38 mmol, 2.8 mL, 3.9 g, 9.5 eq | C(C)N(CC)CC | C6H15N
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 6-[(S)-4-(4-Chloro-phthalazin-1-yl)-3-methyl-piperazin-1-yl]-nicotinic acid ethyl ester | 500 mg, 30% yield | C(C)OC(C1=CN=C(C=C1)N1C[C@@H](N(CC1)C1=NN=C(C2=CC=CC=C12)Cl)C)=O | C21H22ClN5O2
